US06743802B2
N-Isopropyl-1-[3-(3-quinolinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide
Following the procedure of EXAMPLE 15, but substituting N-isopropyl-1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide from Step 2 of EXAMPLE 5 for 2-phenyl-3-butyn-2-ol, and 3-bromoquinoline for N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide, the title compound was obtained as a solid.

reactant | 2-phenyl-3-butyn-2-ol | C1(=CC=CC=C1)C(C)(C#C)O | C10H10O
reactant | 3-bromoquinoline | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)Br | C18H16BrN3O2
product | N-Isopropyl-1-[3-(3-quinolinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)C#CC=1C=NC2=CC=CC=C2C1 | C29H22N4O2
